US07199239B2
Intermediate 39: Ethyl [4-({(2-cyclopropylethyl)[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}sulfonyl)-2-methylphenoxy]acetate
To a solution of N-(2-cyclopropylethyl)-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine (155 mg, 0.51 mmol) in anhydrous CH2Cl2 (10 mL) under nitrogen at room temperature was added ethyl [4-(chlorosulfonyl)-2-methylphenoxy]acetate (223 mg, 0.76 mmol) and triethylamine (0.213 mL, 1.53 mmol). The resultant mixture was stirred for 40 h at room temperature. The reaction mixture was diluted with water (15 mL) and extracted with CH2Cl2 (30 mL). The organic solution was passed through a hydrophobic frit and the solvent was removed in vacuo. Purification by Biotage™ chromatography (40 g Silica column) eluted with 1:19–1:9 EtOAc:cyclohexane afforded the title compound as a white crystalline solid (156 mg).

reactant | N-(2-cyclopropylethyl)-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine | 0.51 mmol, 155 mg | C1(CC1)CCNC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C18H18F3N
reactant | ethyl [4-(chlorosulfonyl)-2-methylphenoxy]acetate | 0.76 mmol, 223 mg | ClS(=O)(=O)C1=CC(=C(OCC(=O)OCC)C=C1)C | C11H13ClO5S
reactant | triethylamine | 1.53 mmol, 0.213 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 15 mL | O | H2O
product | Ethyl [4-({(2-cyclopropylethyl)[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}sulfonyl)-2-methylphenoxy]acetate | 156 mg | C1(CC1)CCN(S(=O)(=O)C1=CC(=C(OCC(=O)OCC)C=C1)C)C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C29H30F3NO5S
